US05667721
A solution of 16.75 g of diethyl (E)-[2-(5-but-1-enyl-1,3-dioxan-2-yl)-ethyl]-malonate in 25 ml of tetrahydrofuran was added dropwise at 5°-8° C. under a protective gas to a suspension of 3.87 g of lithium aluminium hydride in 100 ml of tetrahydrofuran. The reaction mixture was stirred at 5° C. for a further 15 minutes, then at room temperature for 2 hours and finally at the boiling temperature for 1.2 hours. After cooling 3N sodium hydroxide solution was cautiously added dropwise until a solid white clump formed. The solution was decanted and the residue was washed twice with diethyl ether. The organic phases were combined, washed in succession with 25 ml of concentrated sodium bicarbonate solution and twice with 25 ml of concentrated sodium chloride solution each time, dried over sodium sulfate, filtered and the filtrate was concentrated. 12.20 g of crude (E)-2-[2-(5-but-1-enyl-1,3-dioxan-2-yl)-ethyl]-1,3-propanediol were obtained as a sticky-solid crude product, m.p. up to 87.1° C. (GC purity 86%, trans/cis ratio 7:3), which was used in the final step without further purification.

reactant | diethyl (E)-[2-(5-but-1-enyl-1,3-dioxan-2-yl)-ethyl]-malonate | 16.75 g | C(=C\CC)/C1COC(OC1)CCC(C(=O)OCC)C(=O)OCC | C17H28O6
reactant | lithium aluminium hydride | 3.87 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (E)-2-[2-(5-but-1-enyl-1,3-dioxan-2-yl)-ethyl]-1,3-propanediol | 12.20 g | C(=C\CC)/C1COC(OC1)CCC(CO)CO | C13H24O4
